US05578620
3-(2-t-Butyldimethylsilyloxy-1-methylethyl)-5-(3-fluorophenoxymethyl)Oxazolidin-2-one
A procedure similar to that described in Preparation 11 was repeated, except that 2.00 g of 1-(3-fluorophenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol (prepared as described in Preparation 71), 20 ml of anhydrous dimethylformamide and 1.09 g of N,N'-carbonyldiimidazole were used, to give 0.74 g of the title compound having an Rf value of 0.29 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent) from a polar diastereomer and 1.03 g of the title compound, melting at 54° C. to 58° C. from a less polar diastereomer.

reactant | 1-(3-fluorophenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol | 2.00 g | FC=1C=C(OCC(CNC(CO[Si](C)(C)C(C)(C)C)C)O)C=CC1 | C18H32FNO3Si
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(2-t-Butyldimethylsilyloxy-1-methylethyl)-5-(3-fluorophenoxymethyl)Oxazolidin-2-one | 0.74 g | [Si](C)(C)(C(C)(C)C)OCC(C)N1C(OC(C1)COC1=CC(=CC=C1)F)=O | C19H30FNO4Si
